US07919504B2
5-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)indolin-2-one.
A mixture of tert-butyl (S)-1-(5-(2-oxoindolin-5-yl)-1,3,4-thiadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (350 mg) and TFA (10 mL) in DCM (10 mL) was stirred at room temperature for 1 hour. The solvent was removed under vacuum. The residue was partitioned between saturated sodium bicarbonate and DCM. The combined organic portions were washed with brine and then dried over sodium sulfate. Removal of the solvent gave the title compound 5-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)indolin-2-one as an off-white amorphous solid (137 mgs, 48%). LCMS (API-ES) m/z (%): 434.1 (100%, M++H); 1H NMR (400 MHz, CD3OD) δ ppm 3.05-3.16 (m, 2H) 3.54-3.64 (m, 3H) 3.68-3.76 (m, 1H) 3.90 (td, J=7.14, 4.30 Hz, 1H) 6.96 (d, J=8.22 Hz, 1H) 7.54 (d, J=8.02 Hz, 2H) 7.60-7.65 (m, 1H) 7.65-7.71 (m, 3H).

reactant | tert-butyl (S)-1-(5-(2-oxoindolin-5-yl)-1,3,4-thiadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 350 mg | O=C1NC2=CC=C(C=C2C1)C1=NN=C(S1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C25H26F3N5O3S
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)indolin-2-one | 137 mgs, 48% | N[C@H](CNC1=NN=C(S1)C=1C=C2CC(NC2=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F | C20H18F3N5OS
